* C:\Users\milto\Desktop\TP5\Bessel SIN tolerancias.asc
XU1 N006 N008 V+ V- Vo1 TL082
R1 N002 Vin 100k
R2 N006 N002 100k
R3 0 N008 2.2Meg
R4 N008 N010 12
C1 N003 N002 820p
C22 0 N006 220p
XU2 N007 N009 V+ V- Vo2 TL082
R5 N004 Vo1 100k
R6 N007 N004 100k
R7 0 N009 2.2Meg
R8 N009 N011 12
C42 0 N007 390p
R9 N001 Vo2 10k
XU3 0 N001 V+ V- Vo TL082
C5 Vo N001 4.7n
R10 Vo N001 10k
V1 V+ 0 15
V2 V- 0 -15
V3 Vin 0 AC 1
C2 N006 0 4.7p
C12 Vo1 N003 10n
C3 N005 N004 560p
C32 Vo2 N005 8.2n
C4 N007 0 22p
C6 Vo N001 100p
R11 N010 Vo1 12
R12 N011 Vo2 12
.ac dec 100 100 30k
.include TL082.301
.backanno
.end
