* C:\Users\mlste\Documents\ITBA\6 Cuatrimestre\TC\TC_TP5\Ej3\Simulacion\version 2\sedra version 2.asc
R1 N001 P001 {mc{15k, tolr}}
R2 N001 N003 {mc{3.9k, tolr}}
R3 N005 N001 {mc{1k,tolr}}
R4 0 P002 {mc{6.8k,tolr}}
R5 N009 N007 {mc{47,tolr}}
C1 N011 N010 {mc{82, tolc}}
C2 0 N011 {mc{560p,tolc}}
C3 N017 N011 {mc{4.7n,tolc}}
XU1 N007 N001 v+ v- N005 LM833#0
R7 P001 0 {mc{180,tolr}}
R8 N003 in1 {mc{10k,tolr}}
R9 P002 N007 {mc{220,tolr}}
R10 in1 N009 {mc{12k,tolr}}
R11 N005 N011 {mc{18k,tolr}}
R6 N005 N011 {mc{470,tolr}}
C4 N017 in1 {mc{680n,tolc}}
C5 N010 N007 {mc{5.6n,tolc}}
V2 v+ 0 15
V3 0 v- 15
R12 N002 0 {mc{1k8, tolr}}
R13 N002 N004 {mc{5.6k, tolr}}
R14 N006 N002 {mc{1k,tolr}}
R16 N012 N008 {mc{3k9,tolr}}
C6 N014 N013 {mc{12n, tolc}}
C7 N016 N014 {mc{22n,tolc}}
C8 in2 N014 {mc{1n,tolc}}
XU2 N008 N002 v+ v- N006 LM833#0
R18 N004 in2 {mc{270,tolr}}
R20 in2 N012 {mc{10k,tolr}}
C10 N013 N008 {mc{8.2n,tolc}}
R17 N002 0 {mc{270, tolr}}
R15 N008 0 {mc{680, tolr}}
R19 N008 0 {mc{2k2,tolr}}
R21 N006 P003 {mc{470,tolr}}
R22 P003 N014 {mc{1k2, tolr}}
C9 N016 0 {mc{4n7,tolc}}
XU4 N015 in1 v+ v- in1 LM833#0
V1 N015 0 PULSE(1 1 0 1p 1p 10u 20u) AC 3 Rser=50
XU3 N005 in2 v+ v- in2 LM833#0
.inc "LM833.mod"
.param tolc=0.1
.param tolr=0.01
.ac dec 100 1000 1000000
;.step param run 1 30 1
.backanno
.end
