* C:\Users\grein\Desktop\TP TC\Prueba Final\Fleisher_Tow_1.asc
R4 V1 Vin {6.2941e3*1.1}
R1 V1 V2 {mc(6.8e3+620,tola)}
C1 V1 V2 {mc(3.3n,tolb)}
R2 V5 V4 {mc(1.5e3+150,tola)}
C2 V6 V5 {mc(3.3n,tolb)}
Ra V3 V2 {mc(2.7k,tola)}
R5 V3 Vin {mc(2.28e3,tola)}
R6 V5 Vin {mc(1.5e3+150,tola)}
V1 V++ 0 15
V2 0 V-- 15
XU1 0 V1 v++ V-- V2 TL084
XU2 0 V3 v++ V-- V4 TL084
XU3 0 V5 v++ V-- V6 TL084
V3 Vin 0 AC 1
R3 V6 V1 {mc(1.5e3+150,tola)}
rb V4 V3 {mc(2.7k,tola)}
R7 N001 V4 {10k*1.1}
R8 N001 N003 {mc(7.5e3+360,tola)}
C3 N001 N003 {mc(3.9n,tolb)}
R9 N005 N006 {mc(1e3+750,tola)}
C4 N002 N005 {mc(3.9n,tolb)}
Ra1 N004 N003 {mc(2.2e3,tola)}
R10 N004 V4 {mc(2.8e3,tola)}
R11 N005 V4 {mc(1e3+750,tola)}
XU4 0 N001 v++ V-- N003 TL084
XU5 0 N004 v++ V-- N006 TL084
XU6 0 N005 v++ V-- N002 TL084
R12 N002 N001 {mc(1e3+750,tola)}
rb1 N006 N004 {mc(2.2e3,tola)}
.inc TL084.mod
.ac dec 1000 1e2 1e7
.param tola 0.01
.step param 1 1 100
.param tolb=0.01
.backanno
.end
