* C:\Users\grein\Desktop\TP TC\Prueba Final\Fleisher_Tow_1_sin_montec.asc
R4 V1 Vin {mc(20.10K,tola)}
R1 V1 V2 {mc(22k+1.8K,tola)}
C1 V1 V2 {mc(1n,tolb)}
R2 V5 V4 {mc(5.1K+330,tola)}
C2 V6 V5 {mc(1n,tolb)}
Ra V3 V2 {mc(1.1K+130,tola)}
R5 V3 Vin {mc(1K+39,tola)}
R6 V5 Vin {mc(5.1K+330,tola)}
V1 V++ 0 15
V2 0 V-- 15
XU1 0 V1 v++ V-- V2 TL084
XU2 0 V3 v++ V-- V4 TL084
XU3 0 V5 v++ V-- V6 TL084
V3 Vin 0 AC 1
R3 V6 V1 {mc(5.1K+330,tola)}
RB V4 V3 {mc(1.1K+130,tola)}
R4_2 N001 V4 {mc(37.8k,tola)}
R1_2 N001 N003 {mc(15K+15K,tola)}
C1_2 N001 N003 {mc(1n,tolb)}
R2_2 N005 N006 {mc(6.8K+47,tola)}
C2_2 N002 N005 {mc(1n,tolb)}
RA_2 N004 N003 {mc(1K,tola)}
R5_2 N004 V4 {mc(1.1k+160,tola)}
R6_2 N005 V4 {mc(6.8K+47,tola)}
XU4 0 N001 v++ V-- N003 TL084
XU5 0 N004 v++ V-- N006 TL084
XU6 0 N005 v++ V-- N002 TL084
R3_2 N002 N001 {mc(6.8K+47,tola)}
RB_2 N006 N004 {mc(1K,tola)}
.inc TL084.mod
.ac dec 1000 1e2 1e7
.param tola=0.01
.step param run 1 100 1
.param tolb=0.05
.backanno
.end
